US08003785B2
To a cooled (0 degrees) mixture of 1.21 g (4.58 mmole) of [1-(2,2-difluoro-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester and 20 mL of dioxane, was added 5.7 mL of 4M HCl in dioxane. The mixture was stirred at room temperature overnight, and the solid collected by filtration to give 0.90 g of 1-(2,2-difluoro-ethyl)-piperidin-4-ylamine dihydrochloride.

reactant | [1-(2,2-difluoro-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 4.58 mmole, 1.21 g | C(C)(C)(C)OC(NC1CCN(CC1)CC(F)F)=O | C12H22F2N2O2
reactant | HCl | 4M, 5.7 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 1-(2,2-difluoro-ethyl)-piperidin-4-ylamine dihydrochloride | 0.90 g | Cl.Cl.FC(CN1CCC(CC1)N)F | InChI=1S/C7H14F2N2.2ClH/c8-7(9)5-11-3-1-6(10)2-4-11;;/h6-7H,1-5,10H2;2*1H
